US07384967B2
(3-Cyclopentanecarbonyl-4-{3-[5-(1H-imidazol-2-ylsulfanyl)-thiazol-2-yl]-ureido}-phenyl)acetic acid ethyl ester (120 mg, 24%) was prepared from {4-[3-(5-bromo-thiazol-2-yl)-ureido]-3-cyclopentanecarbonyl-phenyl}-acetic acid ethyl ester (480 mg, 1 mmol) and 1H-imidazole-2-thiol (200 mg, 2 mmol) following the general procedure Q.

reactant | {4-[3-(5-bromo-thiazol-2-yl)-ureido]-3-cyclopentanecarbonyl-phenyl}-acetic acid ethyl ester | 1 mmol, 480 mg | C(C)OC(CC1=CC(=C(C=C1)NC(=O)NC=1SC(=CN1)Br)C(=O)C1CCCC1)=O | C20H22BrN3O4S
reactant | 1H-imidazole-2-thiol | 2 mmol, 200 mg | N1C(=NC=C1)S | C3H4N2S
product | (3-Cyclopentanecarbonyl-4-{3-[5-(1H-imidazol-2-ylsulfanyl)-thiazol-2-yl]-ureido}-phenyl)acetic acid ethyl ester | 120 mg, 24% | C(C)OC(CC1=CC(=C(C=C1)NC(=O)NC=1SC(=CN1)SC=1NC=CN1)C(=O)C1CCCC1)=O | C23H25N5O4S2
